* source PROIECT
V_V1         N00884 0 12V
R_R2         0 N33107  15k TC=0,0 
V_V2         N01960 0 20V
R_R3         N33107 N01967  22k TC=0,0 
R_R4         N01960 N01971  22k TC=0,0 
R_R5         0 N01971  10k TC=0,0 
R_R6         N01967 N02054  10k TC=0,0 
R_R7         N02279 0  10k TC=0,0 
R_R8         N02363 N02279  6.5k TC=0,0 
V_V3         +VCC 0 12V
V_V4         -VCC 0 -12V
R_R9         N33107 N00884  {R} TC=0,0 
V_V6         N44111 0 5.99V
V_V7         N18597 0 6.99V
V_V8         N18770 0 7.99V
V_V9         N18946 0 8.99V
V_V10         N19125 0 9.99V
V_V11         N20229 0 10.99V
R_R10         N21390 N21545  430 TC=0,0 
R_R11         N21394 N21549  430 TC=0,0 
R_R12         N21398 N21553  485 TC=0,0 
R_R13         N21402 N21557  490 TC=0,0 
R_R14         N21406 N21561  475 TC=0,0 
R_R15         N21414 N21565  445 TC=0,0 
D_D1         N21545 0 ALB 
D_D2         N21549 0 ALBASTRU 
D_D3         N21553 0 GALBEN 
D_D4         N21557 0 ROSU 
D_D5         N21561 0 VERDE 
D_D6         N21565 0 VIOLET 
X_U11         N02363 N44111 +VCC 0 N21390 LM741
X_U12         N02363 N18597 +VCC 0 N21394 LM741
X_U13         N02363 N18770 +VCC 0 N21398 LM741
X_U14         N02363 N18946 +VCC 0 N21402 LM741
X_U15         N02363 N19125 +VCC 0 N21406 LM741
X_U16         N02363 N20229 +VCC 0 N21414 LM741
X_U17A         N02054 N02279 +VCC -VCC N02363 UA772
X_U17B         N01971 N01967 +VCC -VCC N02054 UA772
.PARAM  r=50k
